US06090825
A. 4-(2-Chloro-ethyl)-benzoic acid methyl ester
A solution of 4-(2-Chloro-ethyl)-benzoic acid (20 g, 108 mmol) in DMF (200 mL) is treated with K2CO3 (59.7 g, 432 mmol) and Mel (16.8 mL, 270 mmol) and stirred at 23 C for 18 h. The reaction mixture is diluted with EtOAc (450 mL) and washed with H2O (2×150 mL), saturated aqueous NaHCO3 (1×200 mL), brine (1×200 mL), dried (MgSO4), and concentrated to afford the title compound as a yellow oil.

reactant | 4-(2-Chloro-ethyl)-benzoic acid | 108 mmol, 20 g | ClCCC1=CC=C(C(=O)O)C=C1 | C9H9ClO2
reactant | K2CO3 | 432 mmol, 59.7 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 450 mL | CCOC(=O)C | C4H8O2
product | 4-(2-Chloro-ethyl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)CCCl)=O | C10H11ClO2
